US06562846B2
2-Methyl-7-(2-methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid:
(Scheme 3 (P)) A solution of starting material 2-Methyl-7-(2-methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid ethyl ester (130 mg, 0.32 mmole) in Methanol (5 ml) and Sodium Hydroxide (64 mg, 1.61 mmole) was let stirred under reflux for 18 hrs. The next day, the reaction was let cooled to room temperature and concentrated in vacuo. The residue was diluted with water, and acidified with Hydrochloric Acid (3N). The aqueous layer was extracted with Dichloromethane (3×10 ml). The organic layers were combined, dried over Sodium Sulfate and filtered. The resultant filtrate was concentrated in vacuo to afford product as a white solid (120 mg, 99%). Mass Spec: 377 (MH+).

reactant | 2-Methyl-7-(2-methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid ethyl ester | 0.32 mmole, 130 mg | C(C)OC(C(CCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C)C)=O | C26H32N2O2
reactant | Sodium Hydroxide | 1.61 mmole, 64 mg | [OH-].[Na+]
solvent | Methanol | 5 ml | CO | CH4O
product | 2-Methyl-7-(2-methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid | 120 mg, 99% | CC(C(=O)O)CCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C | C24H28N2O2
